US05442063
85% Potassium hydroxide (2.57 g, 38.9 mmol) and tert-butyl alcohol (40 ml) were added to 2-phenoxy-α-hydroxyiminobenzyl cyanide (E/Z=11/89)(3.10 g, 13 mmol). The mixture was heated under reflux for 10 hours. After completion of the reaction, the reaction mixture was neutralized with 1N hydrochloric acid, extracted with ethyl acetate (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from n-hexane/ethyl acetate to give 2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide (2.25 g, Yield: 67.5%, Z=at least 98%) as pale yellow crystals.

reactant | Potassium hydroxide | 38.9 mmol, 2.57 g | [OH-].[K+]
reactant | 2-phenoxy-α-hydroxyiminobenzyl cyanide | 13 mmol, 3.10 g | O(C1=CC=CC=C1)C1=C(C(=NO)C#N)C=CC=C1 | C14H10N2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tert-butyl alcohol | 40 ml | C(C)(C)(C)O | C4H10O
product | 2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide | 2.25 g, Yield: 67.5% | O(C1=CC=CC=C1)C1=C(C=CC=C1)C(C(=O)N)=NO | C14H12N2O3
